US04983633
4-(2-Piperidinoethoxy)benzylamine
A suspension of 32.3 g of 4-(2-piperidinoethoxy)benzaldoxime in 400 ml of 10% methanolic ammonia was hydrogenated over 3.6 g of Raney nickel catalyst at a pressure of 50 kg/cm2 and at 30° C. The catalyst was filtered off and the filtrate was evaporated. The residue was distilled to give 27.7 g of colorless oil, b.p. 185°-190° C. (6 mmHg).

reactant | 4-(2-piperidinoethoxy)benzaldoxime | 32.3 g | N1(CCCCC1)CCOC1=CC=C(C=NO)C=C1 | C14H20N2O2
solvent | ammonia | 400 ml | N | H3N
catalyst | Raney nickel | 3.6 g | [Ni] | Ni
product | 4-(2-Piperidinoethoxy)benzylamine | 27.7 g | N1(CCCCC1)CCOC1=CC=C(CN)C=C1 | C14H22N2O
